US07981874B2
tert-Butyl [2-(diisopropylphosphoryl)ethyl]carbamate (585 mg, 2.11 mmol) was combined with 4.0 M HCl in 1,4-dioxane (10.0 mL, 40.0 mmol) and stirred at room temperature for 30 minutes. The solution was evaporated to dryness to afford 2-(diisopropylphosphoryl)ethanamine hydrochloride as a colorless solid. 1H NMR (DMSO-d6, 600 MHz) 8.23 (bs, 3H), 2.99-2.90 (m, 2H), 2.08-1.93 (m, 4H), 1.05 (dd, J=14.7, 7.2 Hz, 6H), 1.03 (dd, J=15.2, 7.0 Hz, 6H). MS: cal'd 178 (MH+), exp 178 (MH+).

reactant | tert-Butyl [2-(diisopropylphosphoryl)ethyl]carbamate | 2.11 mmol, 585 mg | C(C)(C)P(=O)(C(C)C)CCNC(OC(C)(C)C)=O | C13H28NO3P
reactant | HCl | 4.0 M | Cl | ClH
reactant | 1,4-dioxane | 40.0 mmol, 10.0 mL | O1CCOCC1 | C4H8O2
product | 2-(diisopropylphosphoryl)ethanamine hydrochloride | Cl.C(C)(C)P(=O)(C(C)C)CCN | InChI=1S/C8H20NOP.ClH/c1-7(2)11(10,6-5-9)8(3)4;/h7-8H,5-6,9H2,1-4H3;1H
